US07521447B2
Step B: 2-{1-[2-(tert-Butyl-dimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzonitrile:
To a cooled (0° C.) solution of 5-Fluoro-2-[1-(2-hydroxy-2-methylpropyl)-1H-indazol-5-yloxy]-benzonitrile (0.070 g, 0.215 mmol) and 2,6-lutidine (0.030 g, 0.284 mmol) in dichloromethane (2 mL) was added TBSOTf (0.063 g, 0.240 mmol). The reaction mixture was warmed to room temperature and stirred for 1 hour. The mixture was diluted with ether (50 mL) and washed with 0.2N HCl, NaHCO3, and brine, dried over MgSO4, and concentrated under reduced pressure. The residue was chromatographed eluting with ether/hexanes (1:3) to afford 0.071 g of pale yellow oil (94% yield).

reactant | 5-Fluoro-2-[1-(2-hydroxy-2-methylpropyl)-1H-indazol-5-yloxy]-benzonitrile | 0.215 mmol, 0.070 g | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NN(C2=CC1)CC(C)(C)O | C18H16FN3O2
reactant | 2,6-lutidine | 0.284 mmol, 0.030 g | N1=C(C=CC=C1C)C | C7H9N
reactant | TBSOTf | 0.240 mmol, 0.063 g | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-{1-[2-(tert-Butyl-dimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzonitrile | 0.071 g, 94% yield | [Si](C)(C)(C(C)(C)C)OC(CN1N=CC2=CC(=CC=C12)OC1=C(C#N)C=C(C=C1)F)(C)C | C24H30FN3O2Si
